US05643914
2A (E)-Methyl 3-[3-[4-(4-methoxyphenyl)butyloxy]-6-[(2,6-dichlorophenylthio)methyl]-2-pyridinyl]-2-propenoate.
2,6-Dichlorothiophenol (53 mg, 0.297 mmol, Aldrich) was dissolved in dry MeCN (0.60 mL,) and treated with 2-(E-2-carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-chloromethylpyridine hydrochloride (115 mg, 0.270 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 0.142 mL, 0.949 mmol). The reaction was stirred under an atmosphere of argon at 50° C. for 3 h. The reaction solution was diluted with EtOAc and washed with H2O and brine and dried (MgSO4). Purification by flash column chromatography (silica, EtOAc: CH2Cl2 : hexane, 10:15:75) gave a colorless waxy solid: 1H NMR (250 MHz, CDCl3) δ7.94 (d, J=15.7 Hz, 1H, vinyl), 7.31 (d, J=7.6 Hz, 2H, aryl), 7.13 (m, 4H, aryl, pyridyl), 7.11 (d, J=8.4 Hz, 1H, pyridyl), 6.86 (d, J=8.7 Hz, 2H, phenyl), 6.69 (d, J=15.7 Hz, 1H, vinyl), 4.14 (s, 2H, CH2 -S), 3.97 (t, J=6.1 Hz, 2H, CH2 -O), 3.80 (s, 3H, OMe), 3.78 (s, 3H, methyl ester), 2.63 (t, J=7.2 Hz, 2H, benzylic), 1.81 (m, 4H, CH2CH2); analysis calcd. for C27H27Cl2NO4S: C, 60.90; H, 5.11; N, 2.63; found: C, 60.61; H, 5.01; N, 2.57; MS (ES+): 532.0 (M+H).

reactant | 2,6-Dichlorothiophenol | 0.297 mmol, 53 mg | ClC1=C(C(=CC=C1)Cl)S | C6H4Cl2S
reactant | 2-(E-2-carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-chloromethylpyridine hydrochloride | 0.270 mmol, 115 mg | Cl.C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCC1=CC=C(C=C1)OC)CCl
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.949 mmol, 0.142 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeCN | 0.60 mL | CC#N | C2H3N
product | (E)-Methyl 3-[3-[4-(4-methoxyphenyl)butyloxy]-6-[(2,6-dichlorophenylthio)methyl]-2-pyridinyl]-2-propenoate | COC1=CC=C(C=C1)CCCCOC=1C(=NC(=CC1)CSC1=C(C=CC=C1Cl)Cl)/C=C/C(=O)OC | C27H27Cl2NO4S
